US04172130
The resulting 11.45 g (39.7 mmoles) of oily BOC--Asp(OtBu)--OH and 4.6 g (40 mmoles) of N-hydroxy-succinimide are dissolved in 100 ml of dry dioxane. The solution is cooled until freezing, and then 8.25 g (40 mmoles) of DCC are added. The reaction mixture is stirred at room temperature overnight, the separated DCU is filtered off, and the filtrate is evaporated. The oily residue is solidified with a mixture of n-hexane and diisopropyl ether. The resulting crude product, weighing 13.8 and melting at 98°-102° C., is recrystallized from a threefold amount of isopropanol. 12.1 g (78.3%) of white, crystalline BOC--Asp (OtBu)--OSu are obtained; m.p.: 103°-105° C., [α]D : -25.6° (c: 1.0, in dioxane).

reactant | BOC--Asp(OtBu)--OH | 39.7 mmoles, 11.45 g | CC(C)(C)OC(=O)C[C@@H](C(=O)O)NC(=O)OC(C)(C)C | C13H23NO6
reactant | N-hydroxy-succinimide | 40 mmoles, 4.6 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | DCC | 40 mmoles, 8.25 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | BOC--Asp (OtBu)--OSu | CC(C)(C)OC(=O)C[C@@H](C(=O)ON1C(=O)CCC1=O)NC(=O)OC(C)(C)C | C17H26N2O8
